US05344955
To a 1 liter flask is charged 89 gm(1.0 mole) of sodium dicyanamide and 282 ml of N,N-dimethylacetamide. The stirred mixture is heated to 147° C. and 72.6 gm (1.1 mole) of malononitrile in 72.6 gm of N,N-dimethylacetamide is added dropwise over 2 hours and 25 minutes. The mixture is stirred at 147° C. for an additional 3 hours and 15 minutes; then cooled to 60° C. Next the reaction mixture is charged to a 2 liter flask containing 1276 gm of 2-butanol and stirred overnight at room temperature. The slurry is then filtered, and the wet cake slurried in 319 gm 2-butanol and again filtered. The solids are dried overnight at 70° C. in a vacuum oven. There is obtained 144.9 gm of 1-amino-1-cyanamido-2,2-dicyanoethylene, sodium salt, 84.5% pure, or a 78.9% yield.

reactant | sodium dicyanamide | 1.0 mole, 89 gm | [N-](C#N)C#N.[Na+]
reactant | malononitrile | 1.1 mole, 72.6 gm | C(CC#N)#N | C3H2N2
reactant | 2-butanol | 1276 gm | CC(CC)O | C4H10O
solvent | N,N-dimethylacetamide | 72.6 gm | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 282 ml | CN(C(C)=O)C | C4H9NO
product | 1-amino-1-cyanamido-2,2-dicyanoethylene | 144.9 gm, 78.9% yield | NC(=C(C#N)C#N)NC#N | C5H3N5
